US05985909
1-(t-Butoxycarbonyl)-3-(chloromethyl)-6-nitroindoline was coupled with 2-carboxy-N-(1,3-dihydroxy-2-propyl)indole-6-carboxamide by the method described above, the EtOAc layer dried (Na2SO4), evaporated, and the residue recrystallised from EtOH to give 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-(1,3-dihydroxy-2-propyl)indole-6-carboxamide as a cream powder (29%), mp 230-231° C. (dec.). 1H NMR [(CD3)2SO] δ12.13 (s, 1H, indole NH), 8.98 (d, J=2.1 Hz, 1H, H-7), 8.05 (dd, J=8.3, 2.2 Hz, 1H, H-5), 8.04 (s, 1H, H-3' or H-7'), 7.95 (d, J=8.0 Hz, 1H, amide NH), 7.76 (d, J=8.5 Hz, 1H, H-4'), 7.75 (d, J=8.3 Hz, 1H, H-4), 7.61 (dd, J=8.5, 1.4 Hz, 1H, H-5'), 7.29 (d, J=1.6 Hz, 1H, H-3' or H-7'), 4.87 (t, J=10.1 Hz, 1H, H-2), 4.70 (t, J=5.7 Hz, 2H, OH), 4.51 (dd, J=10.7, 5.1 Hz, 1H, H-2), 4.19-4.06 (m, 3H, H-3 and CH2Cl), 4.04-3.97 (m, 1H, CONHCH), 3.55 (t, J=5.7 Hz, 4H, CH2OH); 13C NMR δ166.8 (CONH), 160.4 (CON), 147.6, 144.6, 139.9, 135.7, 131.8, 131.0, 128.9 (C-6,8,9,2',6',8',9'), 125.5, 121.4, 119.4, 119.1, 112.2, 111.2, 106.1 (C-4,5,7,3',4',5',7'), 60.4 (CH2OH), 54.0 (C-2), 53.8 (CONHCH), 47.0 (CH2Cl), 42.0 (C-3). Anal. (C22H21,ClN4O6).

reactant | 1-(t-Butoxycarbonyl)-3-(chloromethyl)-6-nitroindoline | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])CCl | C14H17ClN2O4
reactant | 2-carboxy-N-(1,3-dihydroxy-2-propyl)indole-6-carboxamide | C(=O)(O)C=1NC2=CC(=CC=C2C1)C(=O)NC(CO)CO | C13H14N2O5
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-(1,3-dihydroxy-2-propyl)indole-6-carboxamide | 29% | ClCC1CN(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)C=1NC2=CC(=CC=C2C1)C(=O)NC(CO)CO | C22H21ClN4O6
